US04435401
4-Amino-6,7-dimethoxy-2-[4-(2-chloropyrimidin-4-yl)piperazino]quinoline
4-Amino-6,7-dimethoxy-2-piperazino-quinazoline (30.0 g, 0.104 mole), 2,4-dichloropyrimidine (17.3 g, 0.117 mole) and triethylamine (20.5 g, 0.203 mole) in ethanol (1200 ml) were heated at reflux for three hours. The solid which separated on cooling was filtered, slurried in hot isopropanol (500 ml), filtered and washed with hot methanol. The product was partitioned between 5% by volume methanol in methylene chloride and 10% (w/w) aqueous sodium carbonate solution, the organic layer separated, washed with water, dried (Na2SO4) and evaporated in vacuo. The resulting solid was slurried in hot isopropanol, filtered and washed with hot isopropanol to afford 20 g. of the title compound, m.p. 266° C.

reactant | 4-Amino-6,7-dimethoxy-2-piperazino-quinazoline | 0.104 mole, 30.0 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | 2,4-dichloropyrimidine | 0.117 mole, 17.3 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | triethylamine | 0.203 mole, 20.5 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1200 ml | C(C)O | C2H6O
product | 4-Amino-6,7-dimethoxy-2-[4-(2-chloropyrimidin-4-yl)piperazino]quinoline | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC(=NC=C1)Cl | C19H21ClN6O2
